US06399601B1
2-Trimethylsilanylethynyl-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide
Using a modified procedure of J. M. Tour et al. (J. Org. Chem., 61: 6906-6921 (1996)), to a degassed solution of 2-bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic acid [(1S)-benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide (106 mg, 0.24 mmol) in tetrahydrofuran (5 ml) was sequentially added diisopropylamine (36 μl, 0.26 mmol), a mixture of copper(I) iodide (9 mg, 0.05 mmol) and dichlorobis(triphenylphosphine)palladium(II) (68 mg, 0.1 mmol), and (trimethylsilyl)acetylene (41 μl, 0.29 mmol). The mixture was stirred overnight, poured into water, and extracted with dichloromethane. The combined organic phases were washed with saturated NaCl, dried over MgSO4, and concentrated. The product was purified by Chromatotron-chromatography (dichloromethane; 20:1 dichloromethane:methanol) to give the title product (4.5 mg, 4%).

reactant | 2-bromo-6H-thieno[2,3-b]pyrrole-5-carboxylic acid [(1S)-benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide | 0.24 mmol, 106 mg | C(C1=CC=CC=C1)[C@@H](C(=O)N1CC(C1)O)NC(=O)C1=CC2=C(N1)SC(=C2)Br | C19H18BrN3O3S
reactant | diisopropylamine | 0.26 mmol, 36 μl | C(C)(C)NC(C)C | C6H15N
reactant | (trimethylsilyl)acetylene | 0.29 mmol, 41 μl | C[Si](C)(C)C#C | C5H10Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 0.05 mmol, 9 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.1 mmol, 68 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Trimethylsilanylethynyl-6H-thieno[2,3-b]pyrrole-5-carboxylic Acid [(1S)-Benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide | 4.5 mg, 4% | C(C1=CC=CC=C1)[C@@H](C(=O)N1CC(C1)O)NC(=O)C1=CC2=C(N1)SC(=C2)C#C[Si](C)(C)C | C24H27N3O3SSi
